US06995263B2
c] {6-[6-(4-Trifluoromethoxy-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester
In analogy to the procedure described in example 7 a], (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester (example 5 b]) was reacted with 5-chloromethyl-2-(4-trifluoromethoxy-phenyl)-pyridine in the presence of cesium carbonate and potassium iodide, using acetonitrile as solvent, to obtain the title compound as colorless crystals.

reactant | (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C14H17NO3
reactant | 5-chloromethyl-2-(4-trifluoromethoxy-phenyl)-pyridine | ClCC=1C=CC(=NC1)C1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NO
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | {6-[6-(4-Trifluoromethoxy-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1C=NC(=CC1)C1=CC=C(C=C1)OC(F)(F)F)=O | C27H25F3N2O4
